US05284954
5-(2-Bromophenyl)tetrazole
A mixture of 2-cyanophenyl bromide (1.00 g, 5.49 mmol), dibutyltin oxide (90.4 mg, 0.549 mmol) and trimethylsilyl azide (1.26 g, 10.98 mmol) in toluene (10.9 mL) were heated at 93° C. for 72 hours. The solvent was removed under reduced pressure and chased with methanol. The residue obtained was partitioned between ethyl acetate (25 mL) and 10% sodium bicarbonate solution (25 mL). The organic phase was extracted with an additional aliquot of 10% sodium bicarbonate solution. The combined aqueous extracts were acidified to pH 2 with 10% hydrochloric acid and extracted with ethyl acetate (2×25 mL). The combined organic extracts were dried over magnesium sulfate, filtered, and concentrated in vacuo to give the title compound (190 mg. 74%) as a white solid. 1H NMR (CD3OD, 300 MHz) δ7.48-7.6 (m, 2H), 7.70 (dd, J=2 Hz, 7 Hz, 1H), 7.84 (dd, J=1 Hz, 6 Hz, 1H). HRMS (DCl/NH3) m/e, calcd for C7H6N479Br: 224.9776, found 224.9762. IR (KBr) 3440, 2600, 1602, 1056, 748 cm-1. Anal calc for C7H6N4Br: C, 37.36; H, 2.24; N, 24.90. Found: C, 37.44; H, 2.25; N, 24.77.

reactant | 2-cyanophenyl bromide | 5.49 mmol, 1.00 g | C(#N)C1=C(C=CC=C1)Br | C7H4BrN
reactant | dibutyltin oxide | 0.549 mmol, 90.4 mg | C(CCC)[Sn](CCCC)=O
reactant | trimethylsilyl azide | 10.98 mmol, 1.26 g | C[Si](C)(C)N=[N+]=[N-] | C3H9N3Si
solvent | toluene | 10.9 mL | C1(=CC=CC=C1)C | C7H8
product | 5-(2-Bromophenyl)tetrazole | 190 mg, 74% | BrC1=C(C=CC=C1)C1=NN=NN1 | C7H5BrN4
